US07781438B2
Preparation of (6-Chloro-3-methyl-isoquinolin-5-yl)-acetic acid methyl ester
To a solution of 6-chloro-3-methyl-5-(2,2,2-trichloro-ethyl)isoquinoline (3.3 g, 10.7 mmol) in anhydrous methanol (64 mL) was added a 30% solution of NaOMe in methanol (9.6 mL) under an argon atmosphere. The resulting brown solution was heated for 3 h at 70° C. After cooling to 0° C., concentrated H2SO4 (5.7 mL) was carefully added and the resulting reaction mixture was heated for 1 h at 70° C. After cooling the reaction mixture was rendered basic (pH=9) with a saturated aqueous NaHCO3 solution and extracted three times with diethyl ether. The combined organic layers were dried over Na2SO4, filtered and concentrated at reduced pressure to afford a brown solid. Purification by flash column chromatography (silica gel, cyclohexane/ethyl actetate 70:30) afforded the title compound as a brown powder (1.91 g, 7.63 mmol, 70%). MS (ES+): 250 (M(C13H1235ClNO2)+H)+.

reactant | 6-chloro-3-methyl-5-(2,2,2-trichloro-ethyl)isoquinoline | 10.7 mmol, 3.3 g | ClC=1C(=C2C=C(N=CC2=CC1)C)CC(Cl)(Cl)Cl | C12H9Cl4N
reactant | NaOMe | C[O-].[Na+]
reactant | H2SO4 | 5.7 mL | OS(=O)(=O)O | H2O4S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methanol | 64 mL | CO | CH4O
solvent | methanol | 9.6 mL | CO | CH4O
product | (6-Chloro-3-methyl-isoquinolin-5-yl)-acetic acid methyl ester | 7.63 mmol, 1.91 g, 70% | COC(CC1=C2C=C(N=CC2=CC=C1Cl)C)=O | C13H12ClNO2
